US04512979
S-Benzyloxycarbonylaminoethyl-L-cysteine is prepared from benzyloxycarbonyl-2-iodoethylamine and L-cysteine by the method of H. Lindley (Austral. J. Chem., 12, 296,1959). The α-amino group is protected with tert-butoxycarbonyl using di-tert-butyl dicarbonate. The resulting fully protected S-2-aminoethyl-L-cysteine is condensed with L-proline-tert-butyl ester in the presence of N,N'-dicyclohexylcarbodiimide. This intermediate is readily purified by medium pressure liquid chromatography on silica in ethyl acetate/hexane (1:1).

reactant | benzyloxycarbonyl-2-iodoethylamine | C(C1=CC=CC=C1)OC(=O)NCCI | C10H12INO2
reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | S-2-aminoethyl-L-cysteine | NCCSC[C@H](N)C(=O)O | C5H12N2O2S
reactant | L-proline-tert-butyl ester | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | S-Benzyloxycarbonylaminoethyl-L-cysteine | C(C1=CC=CC=C1)OC(=O)NCCSC[C@H](N)C(=O)O | C13H18N2O4S
